US06933387B2
a) (4R,10aR)-7-Methoxymethyl-4-methyl-3,4,10,10a-tetrahydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester
Sodium hydride (55-65% dispersion in mineral oil, 27 mg, 0.67 mmol) was added to a solution of (4R,10aR)-7-hydroxymethyl-4-methyl-3,4,10,10a-tetrahydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester (200 mg, 0.63 mmol) in N,N-dimethylformamide (5 mL) at r.t., then after 1 h iodomethane (89 mg, 0.63 mmol) was added and the reaction mixture was stirred 2 h at 50° C. After cooling another portion of sodium hydride (27 mg, 0.67 mmol) was added, then after the addition of a second equivalent of iodomethane (89 mg, 0.63 mmol) the reaction mixture was stirred 2 h at 50° C. After cooling the reaction mixture was poured onto ice and extracted with ether (30 mL), the organic layer was washed with half-saturated brine, dried (MgSO4), and concentrated. Chromatography on SiO2 (Hexane/EtOAc 3:1) yielded the title compound (109 mg, 52%). Light yellow oil, ISP-MS: m/e=333.3 ([M+H]+).

reactant | Sodium hydride | 0.67 mmol, 27 mg | [H-].[Na+]
reactant | (4R,10aR)-7-hydroxymethyl-4-methyl-3,4,10,10a-tetrahydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester | 0.63 mmol, 200 mg | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C=3C=C(C=CC3C2)CO)[C@@H](C1)C | C18H26N2O3
reactant | iodomethane | 0.63 mmol, 89 mg | IC | CH3I
reactant | sodium hydride | 0.67 mmol, 27 mg | [H-].[Na+]
reactant | iodomethane | 0.63 mmol, 89 mg | IC | CH3I
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | (4R,10aR)-7-Methoxymethyl-4-methyl-3,4,10,10a-tetrahydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester | 109 mg, 52% | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C=3C=C(C=CC3C2)COC)[C@@H](C1)C | C19H28N2O3
